US07622585B2
To a solution of 2-isopropoxyphenyl acetate (10 mmol) in CH2Cl2 at 0° C., iodine monochloride (1.0 M in CH2Cl2, 11.0 mL) was added dropwise in 20 min. The mixture was stirred at 0° C. for 2.0 h, diluted with ether, washed with saturated Na2S2O3 and brine. The organic extract was dried over MgSO4 and evaporated to give 5-iodo-2-isopropoxyphenyl acetate as an oil.

reactant | 2-isopropoxyphenyl acetate | 10 mmol | C(C)(=O)OC1=C(C=CC=C1)OC(C)C | C11H14O3
reactant | iodine monochloride | 1.0 M, 11.0 mL | ICl | ClI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5-iodo-2-isopropoxyphenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)I)OC(C)C | C11H13IO3
